US09120749B2
tert-Butyl 4-{[6-(3-chloro-4-hydroxy-5-methoxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]methyl}piperidine-1-carboxylate
Following general procedure F, tert-butyl 4-{[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]methyl}piperidine-1-carboxylate (55 mg, 0.110 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (46 mg, 0.165 mmol) to afford the desired product (27 mg, 43%) as a yellow solid: ESI MS m/z 567 [C31H36ClN3O5+H]+.

reactant | tert-butyl 4-{[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]methyl}piperidine-1-carboxylate | 0.110 mmol, 55 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NCC1CCN(CC1)C(=O)OC(C)(C)C | C24H30BrN3O3
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.165 mmol, 46 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | tert-Butyl 4-{[6-(3-chloro-4-hydroxy-5-methoxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]methyl}piperidine-1-carboxylate | 27 mg, 43% | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NCC1CCN(CC1)C(=O)OC(C)(C)C | C31H36ClN3O5
